US04179564
4-Chloro-11-[3-(dimethylamino)propyl]-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol, hydrochloride (1:1)
12.3 g. of freshly distilled and absolutely dry 3-(dimethylamino)propyl chloride (0.1 mol.) are added slowly with stirring and gentle heating to 2.4 g. of magnesium turnings in 70 ml. of dry tetrahydrofuran. A crystal of iodine and a few drops of ethyl iodide are employed as initiator. After all of the 3-(dimethylamino)propyl chloride is added, the reaction mixture is refluxed for two to three hours. To this Grignard reagent a solution of 10.8 g. of 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one (0.035 mol.), from example 1(e), in 70 ml. of dry tetrahydrofuran is added. The mixture is heated under reflux for 5 hours after which the solvent is evaporated and the residue treated with 150 ml. of water and 60 ml. of ammonium chloride solution (20%). The mixture is extracted with ether and the ethereal extract is washed with water and dried with Na2SO4. Then the etheral solution is allowed to stand over night in a refrigerator to separate unreacted starting material (2.6 g. of oil). The decanted solution is charcoaled, filtered and 8 ml. of ethereal hydrochloric acid (195 g./l.) are added. Stirring is continued for 40 minutes. The precipitated hydrochloride salt is filtered off, washed with ether, and recrystallized from ethyl acetate/ether (1:5) to yield 8.3 g. (55%) of 4-chloro-11-[3-(dimethylamino)propyl]-1-ethyl-1,5,6,11-tetrahydro[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol, hydrochloride (1:1); m.p. 172°-176° (dec.).

reactant | 3-(dimethylamino)propyl chloride | 0.1 mol | CN(CCCCl)C | C5H12ClN
reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one | 0.035 mol | ClC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)=O | C17H14ClN3O
catalyst | ethyl iodide | a few drops | C(C)I | C2H5I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Chloro-11-[3-(dimethylamino)propyl]-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol, hydrochloride | Cl.ClC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)(O)CCCN(C)C | InChI=1S/C22H27ClN4O.ClH/c1-4-27-21-17(14-24-27)19(23)16-11-10-15-8-5-6-9-18(15)22(28,20(16)25-21)12-7-13-26(2)3;/h5-6,8-9,14,28H,4,7,10-13H2,1-3H3;1H
